*$
* CSD19538Q3A
***********************************************************************
*  (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19538Q3A
* Date: 12JUNE2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version:16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS583-MAY 2016
* Model Version: Final 1.00
*
*
**********************************************************************
**********************************************************************
*                                                                    *
* CSD19538Q3A   -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.4961E-10	)
+	(	1	2.26073E-10	)
+	(	2	2.15909E-10	)
+	(	3	2.09208E-10	)
+	(	4	2.04727E-10	)
+	(	5	2.00662E-10	)
+	(	6	1.97157E-10	)
+	(	7	1.95605E-10	)
+	(	8	1.96135E-10	)
+	(	9	1.97229E-10	)
+	(	10	1.96505E-10	)
+	(	11	1.95728E-10	)
+	(	12	1.95921E-10	)
+	(	13	1.95092E-10	)
+	(	14	1.94253E-10	)
+	(	15	1.94403E-10	)
+	(	16	1.93543E-10	)
+	(	17	1.92675E-10	)
+	(	18	1.92805E-10	)
+	(	19	1.91924E-10	)
+	(	20	1.92042E-10	)
+	(	21	1.91158E-10	)
+	(	22	1.91277E-10	)
+	(	23	1.90395E-10	)
+	(	24	1.89518E-10	)
+	(	25	1.89643E-10	)
+	(	26	1.88769E-10	)
+	(	27	1.88892E-10	)
+	(	28	1.88017E-10	)
+	(	29	1.88136E-10	)
+	(	30	1.87248E-10	)
+	(	31	1.87356E-10	)
+	(	32	1.86454E-10	)
+	(	33	1.86545E-10	)
+	(	34	1.85626E-10	)
+	(	35	1.85699E-10	)
+	(	36	1.84765E-10	)
+	(	37	1.84828E-10	)
+	(	38	1.83881E-10	)
+	(	39	1.8393E-10	)
+	(	40	1.82975E-10	)
+	(	41	1.83017E-10	)
+	(	42	1.82055E-10	)
+	(	43	1.82094E-10	)
+	(	44	1.81125E-10	)
+	(	45	1.8116E-10	)
+	(	46	1.80188E-10	)
+	(	47	1.8022E-10	)
+	(	48	1.79248E-10	)
+	(	49	1.79276E-10	)
+	(	50	1.783E-10	)
+	(	51	1.78324E-10	)
+	(	52	1.77349E-10	)
+	(	53	1.7737E-10	)
+	(	54	1.76394E-10	)
+	(	55	1.76415E-10	)
+	(	56	1.75436E-10	)
+	(	57	1.75457E-10	)
+	(	58	1.74478E-10	)
+	(	59	1.74499E-10	)
+	(	60	1.73517E-10	)
+	(	61	1.73538E-10	)
+	(	62	1.72559E-10	)
+	(	63	1.72576E-10	)
+	(	64	1.71597E-10	)
+	(	65	1.71618E-10	)
+	(	66	1.70639E-10	)
+	(	67	1.69656E-10	)
+	(	68	1.69677E-10	)
+	(	69	1.68698E-10	)
+	(	70	1.68719E-10	)
+	(	71	1.6774E-10	)
+	(	72	1.67758E-10	)
+	(	73	1.66779E-10	)
+	(	74	1.668E-10	)
+	(	75	1.65817E-10	)
+	(	76	1.64838E-10	)
+	(	77	1.64859E-10	)
+	(	78	1.63877E-10	)
+	(	79	1.63894E-10	)
+	(	80	1.62915E-10	)
+	(	81	1.62933E-10	)
+	(	82	1.6195E-10	)
+	(	83	1.61968E-10	)
+	(	84	1.60985E-10	)
+	(	85	1.60002E-10	)
+	(	86	1.6002E-10	)
+	(	87	1.59037E-10	)
+	(	88	1.59055E-10	)
+	(	89	1.58069E-10	)
+	(	90	1.58086E-10	)
+	(	91	1.571E-10	)
+	(	92	1.56118E-10	)
+	(	93	1.56132E-10	)
+	(	94	1.55146E-10	)
+	(	95	1.5516E-10	)
+	(	96	1.54174E-10	)
+	(	97	1.54174E-10	)
+	(	98	1.54167E-10	)
+	(	99	1.54163E-10	)
+	(	100	1.54156E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	5.04E-11	)
+	(	0.5	4.54E-11	)
+	(	1	4.09E-11	)
+	(	1.5	3.84E-11	)
+	(	2	3.64E-11	)
+	(	2.5	3.46E-11	)
+	(	3	3.29E-11	)
+	(	3.5	3.12E-11	)
+	(	4	2.97E-11	)
+	(	4.5	2.82E-11	)
+	(	5	2.69E-11	)
+	(	5.5	2.56E-11	)
+	(	6	2.43E-11	)
+	(	6.5	2.26E-11	)
+	(	7	1.96E-11	)
+	(	7.5	1.60E-11	)
+	(	8	1.27E-11	)
+	(	8.5	1.23E-11	)
+	(	9	1.21E-11	)
+	(	9.5	1.20E-11	)
+	(	10	1.18E-11	)
+	(	10.5	1.17E-11	)
+	(	11	1.16E-11	)
+	(	11.5	1.15E-11	)
+	(	12	1.14E-11	)
+	(	12.5	1.13E-11	)
+	(	13	1.12E-11	)
+	(	13.5	1.11E-11	)
+	(	14	1.11E-11	)
+	(	14.5	1.10E-11	)
+	(	15	1.09E-11	)
+	(	15.5	1.08E-11	)
+	(	16	1.08E-11	)
+	(	16.5	1.07E-11	)
+	(	17	1.07E-11	)
+	(	17.5	1.06E-11	)
+	(	18	1.06E-11	)
+	(	18.5	1.05E-11	)
+	(	19	1.05E-11	)
+	(	19.5	1.05E-11	)
+	(	20	1.04E-11	)
+	(	20.5	1.04E-11	)
+	(	21	1.04E-11	)
+	(	21.5	1.03E-11	)
+	(	22	1.03E-11	)
+	(	22.5	1.03E-11	)
+	(	23	1.02E-11	)
+	(	23.5	1.02E-11	)
+	(	24	1.02E-11	)
+	(	24.5	1.01E-11	)
+	(	25	1.01E-11	)
+	(	25.5	1.01E-11	)
+	(	26	1.00E-11	)
+	(	26.5	1.00E-11	)
+	(	27	9.96E-12	)
+	(	27.5	9.92E-12	)
+	(	28	9.89E-12	)
+	(	28.5	9.86E-12	)
+	(	29	9.82E-12	)
+	(	29.5	9.79E-12	)
+	(	30	9.75E-12	)
+	(	30.5	9.72E-12	)
+	(	31	9.69E-12	)
+	(	31.5	9.65E-12	)
+	(	32	9.62E-12	)
+	(	32.5	9.59E-12	)
+	(	33	9.56E-12	)
+	(	33.5	9.53E-12	)
+	(	34	9.50E-12	)
+	(	34.5	9.47E-12	)
+	(	35	9.44E-12	)
+	(	35.5	9.41E-12	)
+	(	36	9.38E-12	)
+	(	36.5	9.35E-12	)
+	(	37	9.33E-12	)
+	(	37.5	9.30E-12	)
+	(	38	9.28E-12	)
+	(	38.5	9.25E-12	)
+	(	39	9.23E-12	)
+	(	39.5	9.21E-12	)
+	(	40	9.19E-12	)
+	(	40.5	9.17E-12	)
+	(	41	9.14E-12	)
+	(	41.5	9.12E-12	)
+	(	42	9.10E-12	)
+	(	42.5	9.08E-12	)
+	(	43	9.07E-12	)
+	(	43.5	9.05E-12	)
+	(	44	9.03E-12	)
+	(	44.5	9.01E-12	)
+	(	45	8.99E-12	)
+	(	45.5	8.98E-12	)
+	(	46	8.96E-12	)
+	(	46.5	8.94E-12	)
+	(	47	8.92E-12	)
+	(	47.5	8.91E-12	)
+	(	48	8.89E-12	)
+	(	48.5	8.87E-12	)
+	(	49	8.86E-12	)
+	(	49.5	8.84E-12	)
+	(	50	8.83E-12	)
+	(	50.5	8.81E-12	)
+	(	51	8.80E-12	)
+	(	51.5	8.78E-12	)
+	(	52	8.77E-12	)
+	(	52.5	8.75E-12	)
+	(	53	8.74E-12	)
+	(	53.5	8.72E-12	)
+	(	54	8.71E-12	)
+	(	54.5	8.70E-12	)
+	(	55	8.68E-12	)
+	(	55.5	8.67E-12	)
+	(	56	8.66E-12	)
+	(	56.5	8.65E-12	)
+	(	57	8.63E-12	)
+	(	57.5	8.62E-12	)
+	(	58	8.61E-12	)
+	(	58.5	8.60E-12	)
+	(	59	8.58E-12	)
+	(	59.5	8.57E-12	)
+	(	60	8.56E-12	)
+	(	60.5	8.55E-12	)
+	(	61	8.54E-12	)
+	(	61.5	8.52E-12	)
+	(	62	8.51E-12	)
+	(	62.5	8.50E-12	)
+	(	63	8.49E-12	)
+	(	63.5	8.48E-12	)
+	(	64	8.46E-12	)
+	(	64.5	8.45E-12	)
+	(	65	8.44E-12	)
+	(	65.5	8.43E-12	)
+	(	66	8.41E-12	)
+	(	66.5	8.40E-12	)
+	(	67	8.39E-12	)
+	(	67.5	8.37E-12	)
+	(	68	8.36E-12	)
+	(	68.5	8.35E-12	)
+	(	69	8.34E-12	)
+	(	69.5	8.33E-12	)
+	(	70	8.31E-12	)
+	(	70.5	8.30E-12	)
+	(	71	8.29E-12	)
+	(	71.5	8.28E-12	)
+	(	72	8.26E-12	)
+	(	72.5	8.25E-12	)
+	(	73	8.24E-12	)
+	(	73.5	8.23E-12	)
+	(	74	8.22E-12	)
+	(	74.5	8.21E-12	)
+	(	75	8.20E-12	)
+	(	75.5	8.18E-12	)
+	(	76	8.17E-12	)
+	(	76.5	8.16E-12	)
+	(	77	8.15E-12	)
+	(	77.5	8.14E-12	)
+	(	78	8.13E-12	)
+	(	78.5	8.12E-12	)
+	(	79	8.10E-12	)
+	(	79.5	8.09E-12	)
+	(	80	8.08E-12	)
+	(	80.5	8.07E-12	)
+	(	81	8.06E-12	)
+	(	81.5	8.05E-12	)
+	(	82	8.04E-12	)
+	(	82.5	8.03E-12	)
+	(	83	8.02E-12	)
+	(	83.5	8.01E-12	)
+	(	84	8.00E-12	)
+	(	84.5	7.99E-12	)
+	(	85	7.98E-12	)
+	(	85.5	7.97E-12	)
+	(	86	7.96E-12	)
+	(	86.5	7.95E-12	)
+	(	87	7.94E-12	)
+	(	87.5	7.93E-12	)
+	(	88	7.92E-12	)
+	(	88.5	7.91E-12	)
+	(	89	7.90E-12	)
+	(	89.5	7.89E-12	)
+	(	90	7.88E-12	)
+	(	90.5	7.87E-12	)
+	(	91	7.86E-12	)
+	(	91.5	7.85E-12	)
+	(	92	7.84E-12	)
+	(	92.5	7.83E-12	)
+	(	93	7.83E-12	)
+	(	93.5	7.82E-12	)
+	(	94	7.81E-12	)
+	(	94.5	7.80E-12	)
+	(	95	7.79E-12	)
+	(	95.5	7.78E-12	)
+	(	96	7.77E-12	)
+	(	96.5	7.76E-12	)
+	(	97	7.76E-12	)
+	(	97.5	7.78E-12	)
+	(	98	7.79E-12	)
+	(	98.5	7.63E-12	)
+	(	99	7.66E-12	)
+	(	99.5	7.63E-12	)
+	(	100	7.65E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	4.54E-10	)
+	(	0.5	4.11E-10	)
+	(	1	3.66E-10	)
+	(	1.5	3.35E-10	)
+	(	2	3.13E-10	)
+	(	2.5	2.94E-10	)
+	(	3	2.77E-10	)
+	(	3.5	2.62E-10	)
+	(	4	2.49E-10	)
+	(	4.5	2.37E-10	)
+	(	5	2.26E-10	)
+	(	5.5	2.15E-10	)
+	(	6	2.05E-10	)
+	(	6.5	1.92E-10	)
+	(	7	1.71E-10	)
+	(	7.5	1.47E-10	)
+	(	8	1.24E-10	)
+	(	8.5	1.18E-10	)
+	(	9	1.13E-10	)
+	(	9.5	1.10E-10	)
+	(	10	1.06E-10	)
+	(	10.5	1.03E-10	)
+	(	11	9.98E-11	)
+	(	11.5	9.70E-11	)
+	(	12	9.45E-11	)
+	(	12.5	9.20E-11	)
+	(	13	8.98E-11	)
+	(	13.5	8.76E-11	)
+	(	14	8.56E-11	)
+	(	14.5	8.38E-11	)
+	(	15	8.20E-11	)
+	(	15.5	8.03E-11	)
+	(	16	7.88E-11	)
+	(	16.5	7.73E-11	)
+	(	17	7.60E-11	)
+	(	17.5	7.47E-11	)
+	(	18	7.35E-11	)
+	(	18.5	7.24E-11	)
+	(	19	7.14E-11	)
+	(	19.5	7.05E-11	)
+	(	20	6.96E-11	)
+	(	20.5	6.88E-11	)
+	(	21	6.81E-11	)
+	(	21.5	6.75E-11	)
+	(	22	6.70E-11	)
+	(	22.5	6.66E-11	)
+	(	23	6.62E-11	)
+	(	23.5	6.59E-11	)
+	(	24	6.57E-11	)
+	(	24.5	6.55E-11	)
+	(	25	6.54E-11	)
+	(	25.5	6.54E-11	)
+	(	26	6.54E-11	)
+	(	26.5	6.55E-11	)
+	(	27	6.56E-11	)
+	(	27.5	6.57E-11	)
+	(	28	6.58E-11	)
+	(	28.5	6.58E-11	)
+	(	29	6.59E-11	)
+	(	29.5	6.59E-11	)
+	(	30	6.58E-11	)
+	(	30.5	6.57E-11	)
+	(	31	6.54E-11	)
+	(	31.5	6.51E-11	)
+	(	32	6.47E-11	)
+	(	32.5	6.43E-11	)
+	(	33	6.37E-11	)
+	(	33.5	6.30E-11	)
+	(	34	6.23E-11	)
+	(	34.5	6.15E-11	)
+	(	35	6.07E-11	)
+	(	35.5	5.98E-11	)
+	(	36	5.89E-11	)
+	(	36.5	5.79E-11	)
+	(	37	5.69E-11	)
+	(	37.5	5.59E-11	)
+	(	38	5.49E-11	)
+	(	38.5	5.38E-11	)
+	(	39	5.28E-11	)
+	(	39.5	5.17E-11	)
+	(	40	5.07E-11	)
+	(	40.5	4.97E-11	)
+	(	41	4.87E-11	)
+	(	41.5	4.77E-11	)
+	(	42	4.67E-11	)
+	(	42.5	4.57E-11	)
+	(	43	4.47E-11	)
+	(	43.5	4.37E-11	)
+	(	44	4.27E-11	)
+	(	44.5	4.17E-11	)
+	(	45	4.08E-11	)
+	(	45.5	3.98E-11	)
+	(	46	3.89E-11	)
+	(	46.5	3.80E-11	)
+	(	47	3.70E-11	)
+	(	47.5	3.61E-11	)
+	(	48	3.52E-11	)
+	(	48.5	3.43E-11	)
+	(	49	3.34E-11	)
+	(	49.5	3.25E-11	)
+	(	50	3.16E-11	)
+	(	50.5	3.08E-11	)
+	(	51	2.99E-11	)
+	(	51.5	2.91E-11	)
+	(	52	2.83E-11	)
+	(	52.5	2.74E-11	)
+	(	53	2.67E-11	)
+	(	53.5	2.59E-11	)
+	(	54	2.51E-11	)
+	(	54.5	2.44E-11	)
+	(	55	2.37E-11	)
+	(	55.5	2.30E-11	)
+	(	56	2.23E-11	)
+	(	56.5	2.17E-11	)
+	(	57	2.11E-11	)
+	(	57.5	2.05E-11	)
+	(	58	1.99E-11	)
+	(	58.5	1.93E-11	)
+	(	59	1.88E-11	)
+	(	59.5	1.83E-11	)
+	(	60	1.78E-11	)
+	(	60.5	1.73E-11	)
+	(	61	1.68E-11	)
+	(	61.5	1.64E-11	)
+	(	62	1.60E-11	)
+	(	62.5	1.56E-11	)
+	(	63	1.52E-11	)
+	(	63.5	1.48E-11	)
+	(	64	1.45E-11	)
+	(	64.5	1.41E-11	)
+	(	65	1.38E-11	)
+	(	65.5	1.35E-11	)
+	(	66	1.32E-11	)
+	(	66.5	1.29E-11	)
+	(	67	1.26E-11	)
+	(	67.5	1.23E-11	)
+	(	68	1.21E-11	)
+	(	68.5	1.18E-11	)
+	(	69	1.16E-11	)
+	(	69.5	1.13E-11	)
+	(	70	1.11E-11	)
+	(	70.5	1.09E-11	)
+	(	71	1.07E-11	)
+	(	71.5	1.05E-11	)
+	(	72	1.03E-11	)
+	(	72.5	1.01E-11	)
+	(	73	9.91E-12	)
+	(	73.5	9.73E-12	)
+	(	74	9.55E-12	)
+	(	74.5	9.38E-12	)
+	(	75	9.22E-12	)
+	(	75.5	9.06E-12	)
+	(	76	8.91E-12	)
+	(	76.5	8.77E-12	)
+	(	77	8.62E-12	)
+	(	77.5	8.48E-12	)
+	(	78	8.35E-12	)
+	(	78.5	8.22E-12	)
+	(	79	8.09E-12	)
+	(	79.5	7.97E-12	)
+	(	80	7.85E-12	)
+	(	80.5	7.73E-12	)
+	(	81	7.62E-12	)
+	(	81.5	7.51E-12	)
+	(	82	7.40E-12	)
+	(	82.5	7.30E-12	)
+	(	83	7.20E-12	)
+	(	83.5	7.10E-12	)
+	(	84	7.01E-12	)
+	(	84.5	6.91E-12	)
+	(	85	6.82E-12	)
+	(	85.5	6.74E-12	)
+	(	86	6.65E-12	)
+	(	86.5	6.57E-12	)
+	(	87	6.48E-12	)
+	(	87.5	6.41E-12	)
+	(	88	6.33E-12	)
+	(	88.5	6.25E-12	)
+	(	89	6.18E-12	)
+	(	89.5	6.11E-12	)
+	(	90	6.04E-12	)
+	(	90.5	5.97E-12	)
+	(	91	5.85E-12	)
+	(	91.5	5.77E-12	)
+	(	92	5.69E-12	)
+	(	92.5	5.61E-12	)
+	(	93	5.53E-12	)
+	(	93.5	5.45E-12	)
+	(	94	5.37E-12	)
+	(	94.5	5.29E-12	)
+	(	95	5.21E-12	)
+	(	95.5	5.13E-12	)
+	(	96	5.05E-12	)
+	(	96.5	4.97E-12	)
+	(	97	4.89E-12	)
+	(	97.5	4.81E-12	)
+	(	98	4.73E-12	)
+	(	98.5	4.65E-12	)
+	(	99	4.57E-12	)
+	(	99.5	4.49E-12	)
+	(	100	4.41E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*******************************************************************
*$
.SUBCKT csd19538q3a  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  ptrc1    6.0e-3
.PARAM  ptrc2    2e-5
.PARAM  pwidthP  0.9340
.PARAM  pwidth   {pwidthP*1e6}
.PARAM  perimP   {2.1*pwidthP}
.PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	0.048e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
*cds		1	3	3.9672E-11
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 4.75
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP {5.85e-3+33.25e-3}
RDP   4  7	 {0.5e-4+0.52e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 600
+ UA     = 1.4e-8        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = 0.10        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18         CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.15
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.485e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=101
+ IS=5.0e-13 N=1.06 RS=4.00e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS csd19538q3a  
*$
